US08735384B2
Lithium chloride (0.16 mL, 7.8 mmol) and copper cyanide (0.12 mL, 3.9 mmol) were dissolved in dry THF (4 mL) under nitrogen. This was added dropwise to pentamethylenebis(magnesium bromide) (0.5 M in THF, 7.79 mL, 3.9 mmol) in a dry ice bath under nitrogen and the mixture stirred for 30 min. I-Bromo-2-iodobenzene (0.50 mL, 3.9 mmol) was added and the flask was removed from the cold bath. After 30 min additional dry THF (5 mL) was added and stirred for another 40 min. Then tetrahydro-2H-pyran-4-carbonyl chloride (0.58 mL, 3.9 mmol) was added in one portion, and the mixture was stirred for 15 min. The reaction was quenched by addition of saturated ammonium chloride (10 mL). Ethyl acetate (100 mL) and water (100 mL) were added and the phases were mixed and separated. The organic layer was separated, dried with magnesium sulfate and evaporated to dryness under reduced pressure. Purification using silica column chromatography (hexane to ethyl acetate gradient) gave (2-bromophenyl)(tetrahydro-2H-pyran-4-yl)methanone as a thick oil.

reactant | Lithium chloride | 7.8 mmol, 0.16 mL | [Cl-].[Li+]
reactant | copper cyanide | 3.9 mmol, 0.12 mL | [Cu](C#N)C#N
reactant | pentamethylenebis(magnesium bromide) | 3.9 mmol, 0.5 M, 7.79 mL | [CH2-]CCC[CH2-].[Mg+2].[Mg+2].[Br-].[Br-]
reactant | I-Bromo-2-iodobenzene | 3.9 mmol, 0.50 mL | Br[IH]C1=CC=CC=C1 | C6H6BrI
reactant | tetrahydro-2H-pyran-4-carbonyl chloride | 3.9 mmol, 0.58 mL | O1CCC(CC1)C(=O)Cl | C6H9ClO2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (2-bromophenyl)(tetrahydro-2H-pyran-4-yl)methanone | BrC1=C(C=CC=C1)C(=O)C1CCOCC1 | C12H13BrO2
